US07579368B2
j) N-cyclopropyl-2-piperazin-1-yl-acetamide
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetyl-chloride and cyclopropylamine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetyl-chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-cyclopropyl-2-piperazin-1-yl-acetamide | C1(CC1)NC(CN1CCNCC1)=O | C9H17N3O
